US04335055
(1-Phenyl-4-(4'-chlorophenyl)-buta-1,3-diene)
0.112 g (0.5 millimol) of palladium acetate, 10.05 g (50 millimols) of 4-chlorocinnamyl chloride, 6.5 g (62.5 millimols) of styrene and 9.27 g (50 millimols) of tri-n-butylamine in 50 ml of p-xylene are stirred for 23/4 hours at 120° C. The crude product is chromatographed on silica gel in methylene chloride and is recrystallised from n-hexane. 0.5 g (4% of theory) of the above compound are obtained in the form of white crystals of melting point 161.2° C.

reactant | 4-chlorocinnamyl chloride | 50 millimols, 10.05 g | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
reactant | styrene | 62.5 millimols, 6.5 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-butylamine | 50 millimols, 9.27 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 0.5 millimol, 0.112 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Phenyl-4-(4'-chlorophenyl)-buta-1,3-diene | C1(=CC=CC=C1)C=CC=CC1=CC=C(C=C1)Cl | C16H13Cl
